US05026913
The HCl salt of each 2-(2-mercapto-2-methylpropylamino)-1-[2-(2-propynylthio)-2-methylpropylamino]benzene fraction was made by separately dissolving the free amine in 100 ml diethyl ether and cooling the mixture in an ice-H2O bath to 5° C. Anhydrous HCl gas was bubbled through the solution for 3 minutes, which resulted in the precipitation of an amorphous beige solid. The HCl gas and diethyl ether were removed by placing the solution in a 40° C. water bath, and passing a nitrogen stream over the solution. The first sample was recrystallized from ethanol and hexane to give 8.5 g (37% yield, 98.5% purity) of a crystalline, white solid. The second fraction required three successive recrystallizations to obtain a similar purity; 6 g (26% yield, 98% purity). A total of 14.5 g (65% yield) of 2-(2-mercapto-2-methylpropylamino)-1-[2-(2-propynylthio)-2-methylpropylamino]benzene hydrochloride was obtained.

reactant | HCl | Cl | ClH
reactant | 2-(2-mercapto-2-methylpropylamino)-1-[2-(2-propynylthio)-2-methylpropylamino]benzene | SC(CNC1=C(C=CC=C1)NCC(C)(C)SCC#C)(C)C | C17H26N2S2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(2-mercapto-2-methylpropylamino)-1-[2-(2-propynylthio)-2-methylpropylamino]benzene hydrochloride | 14.5 g, 65% yield | Cl.SC(CNC1=C(C=CC=C1)NCC(C)(C)SCC#C)(C)C | InChI=1S/C17H26N2S2.ClH/c1-6-11-21-17(4,5)13-19-15-10-8-7-9-14(15)18-12-16(2,3)20;/h1,7-10,18-20H,11-13H2,2-5H3;1H
